US05955476
A stirred mixture of L-glutamic acid dimethyl ester (2.0 g, 11.4 mmol) and phthalic anhydride (1.7 g, 11.4 mmol) in acetic acid (30 mL) is heated to refluxed for one hour. The solvent is removed in vacuo to yield dimethyl 2-(1,3-dioxoisoindolin-2-yl)-pentane-1,5-dioate which is further purified through chromatography.

reactant | L-glutamic acid dimethyl ester | 11.4 mmol, 2.0 g | COC([C@@H](N)CCC(=O)OC)=O | C7H13NO4
reactant | phthalic anhydride | 11.4 mmol, 1.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | dimethyl 2-(1,3-dioxoisoindolin-2-yl)-pentane-1,5-dioate | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OC)CCC(=O)OC | C15H15NO6
